US06528525B1
(a) Ethyl 3-[4-[2-(4′-methoxymethoxy-3′,5′-dimethylbiphenyl-4-carbonylamino)ethoxy]phenyl]-2-phenoxypropionate
In a similar manner to that described in Example 5, a reaction was carried out using ethyl 3-[4-(2-aminoethoxy)phenyl]-2-phenoxypropionate (2.07 g), which is the product of Reference example 4, 4′-methoxymethoxy-3′,5′-dimethylbiphenyl-4-carboxylic acid (1.50 g), which is the product of reference example 17(b), and carbonyldiimidazole (1.10 g) and the reaction mixture was treated to afford the desired compound (720 mg) as a colorless oil.

reactant | ethyl 3-[4-(2-aminoethoxy)phenyl]-2-phenoxypropionate | 2.07 g | NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1 | C19H23NO4
reactant | 4′-methoxymethoxy-3′,5′-dimethylbiphenyl-4-carboxylic acid | 1.50 g | COCOC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)O)C | C17H18O4
reactant | carbonyldiimidazole | 1.10 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | Ethyl 3-[4-[2-(4′-methoxymethoxy-3′,5′-dimethylbiphenyl-4-carbonylamino)ethoxy]phenyl]-2-phenoxypropionate | 720 mg | COCOC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1)C | C36H39NO7
